US07491710B2
A solution of 6.5 g of 6-(tert-butyldimethylsilanyloxy)-1H-indole, 9.23 g of di-tert-butyl dicarbonate and 646 mg of 4-dimethylaminopyridine in 65 ml of dichloromethane is stirred at ambient temperature. After stirring for 4 hours, the solvent is evaporated off in a rotary evaporator and the reaction crude is purified by flash chromatography on 35-70 μm silica, eluent: cyclohexane to isolate 9.20 g of 6-(tert-butyldimethylsilanyloxy)indole-1-carboxylic acid tert-butyl ester in the form of a yellow oil.

reactant | 6-(tert-butyldimethylsilanyloxy)-1H-indole | 6.5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C=CNC2=C1 | C14H21NOSi
reactant | di-tert-butyl dicarbonate | 9.23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 646 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
product | 6-(tert-butyldimethylsilanyloxy)indole-1-carboxylic acid tert-butyl ester | 9.20 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | C19H29NO3Si
